US07176204B2
3-Chloro-6-(4-Hydroxymethylphenoxy)pyridazine
3-Chloro-6-(4-formylphenoxy)pyridazine (4.06 g, 17.3 mmol) and 200 mL of methanol were mixed, and after sodium borohydride (654 mg, 17.3 mmol) was added under cooling with ice and stirring, the mixture was stirred for 15 minutes. Water was added to the reaction mixture and methanol was distilled off. The residue was poured into water, which was extracted with ethyl acetate. The extracted solution was washed with saturated brine, then dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel chromatography (eluate n-hexane:ethyl acetate=1:2 v/v) to obtain 3.10 g (76%) of the title compound as a colorless oily product.

reactant | 3-Chloro-6-(4-formylphenoxy)pyridazine | 17.3 mmol, 4.06 g | ClC=1N=NC(=CC1)OC1=CC=C(C=C1)C=O | C11H7ClN2O2
reactant | sodium borohydride | 17.3 mmol, 654 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 200 mL | CO | CH4O
product | 3-Chloro-6-(4-Hydroxymethylphenoxy)pyridazine | 3.10 g, 76% | ClC=1N=NC(=CC1)OC1=CC=C(C=C1)CO | C11H9ClN2O2
